US06903092B2
N-[(S)-2-(3,4-Dichlorophenyl)-3-carbamoylpropyl] —N-methyl-3-bromo-2,4-dimethoxy-1-napthamide
To a stirred solution of N-[2-(3,4-dichlorophenyl)-3-carboxypropyl]—N-methyl-3-bromo-2,4-dimethoxy-1-napthamide (0.26 g, 0.468 mmol) in 5 mL of DMF was added HOBT.NH3 (0.175 g, 1.15 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.184 g, 0.96 mmol). The mixture was stirred at RT for 24 h and treated with saturated NaHCO3. The aqueous layer was extracted with DCM. The combined DCM extracts was dried over MgSO4, filtered and concentrated. Following chromatography purification, the title compound was obtained as light yellow solid (0.21 g, 81% yield). 1H NMR (CDCl3) δ 8.15-8.02 (m), 7.61-7.43 (m), 7.37-7.26 (m), 7.07-7.00 (m), 6.91-6.89 (d), 6.81 (d), 6.70-6.67 (d), 6.56-6.53 (d), 6.14 (s), 5.88 (s), 5.33-5.30 (m), 4.33-4.26 (m), 4.05-3.64 (m), 3.43 (m), 3.25 (s), 3.20 (s), 2.96 (s), 2.89 (s), 2.82-2.55 (m), 1.59 (s). MS m/z 555.0 (M+). Analysis calculated for C24H23BrCl2N2O4, 0.1 H2O, C 51.84, H 4.21, N, 5.04, found C, 51.81, H, 4.31, N, 5.05.

reactant | N-[2-(3,4-dichlorophenyl)-3-carboxypropyl]—N-methyl-3-bromo-2,4-dimethoxy-1-napthamide | 0.468 mmol, 0.26 g | ClC=1C=C(C=CC1Cl)C(CN(C(=O)C1=C(C(=C(C2=CC=CC=C12)OC)Br)OC)C)CC(=O)O | C24H22BrCl2NO5
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NH3 | 1.15 mmol, 0.175 g | N | H3N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.96 mmol, 0.184 g | Cl.C(C)N=C=NCCCN(C)C
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-[(S)-2-(3,4-Dichlorophenyl)-3-carbamoylpropyl] —N-methyl-3-bromo-2,4-dimethoxy-1-napthamide | ClC=1C=C(C=CC1Cl)[C@@H](CN(C(=O)C1=C(C(=C(C2=CC=CC=C12)OC)Br)OC)C)CC(N)=O | C24H23BrCl2N2O4
